US04996358
10.45 g of D-leucic acid was dissolved in 150 ml of ethyl acetate. 11 ml of triethylamine and 18.78 g of 4-nitrobenzyl bromide were added and the mixture was heated under reflux for 3 hours. The mixture was washed in sequence with water, 10% citric acid solution, saturated sodium hydrogen carbonate solution, water and saturated sodium chloride solution. After drying over anhydrous sodium sulfate and evaporation, there were obtained 20.6 g (98%) of D-leucic acid 4-nitrobenzyl ester as a gum. Rf (chloroform) 0.37.

reactant | D-leucic acid | 10.45 g | C([C@H](O)CC(C)C)(=O)O | C6H12O3
reactant | triethylamine | 11 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzyl bromide | 18.78 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | D-leucic acid 4-nitrobenzyl ester | 20.6 g, 98% | [N+](=O)([O-])C1=CC=C(COC([C@H](O)CC(C)C)=O)C=C1 | C13H17NO5
